US07807691B2
2-Chloro-4-(2-ethyl-5-phenyl-pyrrolidin-1-yl)-3-methyl-benzonitrile
Dissolve methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester (381 mg, 1.09 mmol) in toluene (10 mL) in a reaction tube. Add 4-amino-2-chloro-3-methylbenzonitrile (363 mg, 2.18 mmol), purge with nitrogen and cap. Heat the reaction in a 120° C. oil bath for 17 h. Cool, concentrate, and purify by silica gel chromatography using 5-30% EtOAc/hexanes to obtain 7 mg (1%) of the title compound (a mixture of 4 isomers) as a clear oil. MS (ESI+): 325 (M+1)+.

reactant | methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester | 1.09 mmol, 381 mg | CS(=O)(=O)OC(CCC(C1=CC=CC=C1)OS(=O)(=O)C)CC | C14H22O6S2
reactant | 4-amino-2-chloro-3-methylbenzonitrile | 2.18 mmol, 363 mg | NC1=C(C(=C(C#N)C=C1)Cl)C | C8H7ClN2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(2-ethyl-5-phenyl-pyrrolidin-1-yl)-3-methyl-benzonitrile | 7 mg, 1% | ClC1=C(C#N)C=CC(=C1C)N1C(CCC1C1=CC=CC=C1)CC | C20H21ClN2
